US07563821B2
As an example of the one-pot procedure for preparing crystalline (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate mesylate, a solution of (2R)-2-phenylcarbonyloxypropyl (2S)-2-(tert-butoxycarbonyl)amino-3-(3,4-dihydroxyphenyl)propanoate in a solvent in which it is soluble is prepared. Examples of suitable solvents include dichloromethane and dioxane. The tert-butoxycarbonyl group is deprotected by adding an acid to provide (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate acid salt. Suitable acids are not limited to volatile acids. Examples of suitable acids for deprotecting the tert-butoxycarbonyl group include hydrochloric acid, methanesulfonic acid, trifluoroacetic acid, and hydrogen bromide. After deprotection, the first solvent can be removed and water added to the (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate acid salt. The (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate acid salt can be neutralized with a base such as NaHCO3 or KHCO3 to provide (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate. (2R)-2-Phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate can then be extracted with a second solvent such as methyl tert-butylether, dichloromethane, ethylacetate, or a mixture of ethylacetate and isopropanol. Methanesulfonic acid can be added to the extracted (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate to convert the (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate to crystalline (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate mesylate. Crystalline (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate mesylate can then be isolated from the second solvent by filtration.

reactant | (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate mesylate | S(C)(=O)(=O)O.N[C@H](C(=O)OC[C@@H](C)OC(=O)C1=CC=CC=C1)CC1=CC(=C(C=C1)O)O
reactant | (2R)-2-phenylcarbonyloxypropyl (2S)-2-(tert-butoxycarbonyl)amino-3-(3,4-dihydroxyphenyl)propanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC[C@@H](C)OC(=O)C1=CC=CC=C1)CC1=CC(=C(C=C1)O)O | C24H29NO8
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R)-2-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate | N[C@H](C(=O)OC[C@@H](C)OC(=O)C1=CC=CC=C1)CC1=CC(=C(C=C1)O)O | C19H21NO6
